US07238808B2
2-(5-Bromo-pyridin-2-ylamino)-ethanol
Prepared from 5-bromo-2-fluoropyridine (2.5 g, 14 mmol) and ethanolamine (4.34 g, 70 mmol) as described in example B.45. Obtained as a colorless oil (400 mg, 13%). MS (ISP) 217.2 [(M+H)+], 219.1 [(M+2+H)+].

reactant | 5-bromo-2-fluoropyridine | 14 mmol, 2.5 g | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | ethanolamine | 70 mmol, 4.34 g | C(O)CN | C2H7NO
product | 2-(5-Bromo-pyridin-2-ylamino)-ethanol | 400 mg, 13% | BrC=1C=CC(=NC1)NCCO | C7H9BrN2O
